US07589204B2
A 1M solution of lithium aluminum hydride in Et2O was added dropwise to a solution of 1-(1,3-dioxolan-2-ylmethyl)-1-indanecarbonitrile (9.9376 g, 43.343 mmole) in Et2O at 0° C. After warming to room temperature overnight the reaction was quenched by the dropwise addition of water resulting in a fine white precipitate. The solid was filtered of and washed 4 times with 100 ml of Et2O. The combined ether layers were evaporated to afford 8.1770 g of [1-(1,3-dioxolan-2-ylmethyl)-2,3-dihydro-1H-inden-1-yl]methanamine (81% yield) as an oil.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(1,3-dioxolan-2-ylmethyl)-1-indanecarbonitrile | 43.343 mmole, 9.9376 g | O1C(OCC1)CC1(CCC2=CC=CC=C12)C#N | C14H15NO2
solvent | Et2O | CCOCC | C4H10O
product | [1-(1,3-dioxolan-2-ylmethyl)-2,3-dihydro-1H-inden-1-yl]methanamine | 8.1770 g, 81% yield | O1C(OCC1)CC1(CCC2=CC=CC=C12)CN | C14H19NO2
